US03992356
Preparation of copolymer of vinyloxycarbonylmethyl cinnamate/stearyl methacrylate (Process 2)
2 g of vinyloxycarbonylmethyl cinnamate prepared according to Example 1 arecopolymerized with 1 g of stearyl methacrylate in solution in 2 g of acetone, in the presence of 0.3 g of azobis-isobutyronitrile.

reactant | vinyloxycarbonylmethyl cinnamate | 2 g | C(C=CC1=CC=CC=C1)(=O)OCC(=O)OC=C | C13H12O4
reactant | stearyl methacrylate | 1 g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | azobis-isobutyronitrile | 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | 2 g | CC(=O)C | C3H6O
product | vinyloxycarbonylmethyl cinnamate stearyl methacrylate | C(C=CC1=CC=CC=C1)(=O)OCC(=O)OC=C.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | InChI=1S/C22H42O2.C13H12O4/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-2-16-13(15)10-17-12(14)9-8-11-6-4-3-5-7-11/h2,4-20H2,1,3H3;2-9H,1,10H2
